US08003685B2
5-(3,3-Dimethyl-but-1-ynyl)-3-[(trans-4-hydroxy-cyclohexyl)-(trans-4-methyl-cyclohexane-carbonyl)-amino]-thiophene-2-carboxylic acid
To a solution of 3-[(trans-4-hydroxy-cyclohexyl)-(trans-4-methyl-cyclohexanecarbonyl)-amino]-5-iodo-thiophene-2-carboxylic acid methyl ester and ethynyl-trimethyl-silane in DMF, triethylamine and tris(dibenzylideneacetone) dipalladium (0) are added and the reaction mixture is stirred at 60° C. for 16 h under a N2 atmosphere. DMF and triethylamine are removed under reduced pressure and the residue is partitioned between water and ethyl acetate. The organic layer is separated, dried (Na2SO4), concentrated and the residue is purified by column chromatography using ethyl acetate and hexane (1:2) as eluent to obtain the title compound.

reactant | 3-[(trans-4-hydroxy-cyclohexyl)-(trans-4-methyl-cyclohexanecarbonyl)-amino]-5-iodo-thiophene-2-carboxylic acid methyl ester | COC(=O)C=1SC(=CC1N(C(=O)[C@@H]1CC[C@H](CC1)C)[C@@H]1CC[C@H](CC1)O)I | C20H28INO4S
reactant | ethynyl-trimethyl-silane | C(#C)[Si](C)(C)C | C5H10Si
reactant | tris(dibenzylideneacetone) dipalladium (0) | [Pd].[Pd].C(C1=CC=CC=C1)=CC(=O)C=CC1=CC=CC=C1.C(C1=CC=CC=C1)=CC(=O)C=CC1=CC=CC=C1.C(C1=CC=CC=C1)=CC(=O)C=CC1=CC=CC=C1
solvent | DMF | CN(C)C=O | C3H7NO
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | 5-(3,3-Dimethyl-but-1-ynyl)-3-[(trans-4-hydroxy-cyclohexyl)-(trans-4-methyl-cyclohexane-carbonyl)-amino]-thiophene-2-carboxylic acid | CC(C#CC1=CC(=C(S1)C(=O)O)N(C(=O)[C@@H]1CC[C@H](CC1)C)[C@@H]1CC[C@H](CC1)O)(C)C | C25H35NO4S
